US08349860B2
2-((1R,2S)-2-aminocyclohexylamino)-4-(3-fluoro-4-(1H-imidazol-1-yl)phenylamino)pyrimidine-5-carboxamide
A solution of tert-butyl (1S,2R)-2-aminocyclohexylcarbamate (0.30 M in NMP, 1.00 mL, 0.300 mmol) in NMP (1 mL) was added to 2-(1H-benzo[d][1,2,3]triazol-1-yloxy)-4-(3-fluoro-4-(1H-imidazol-1-yl)phenylamino)pyrimidine-5-carboxamide (57 mg, 0.13 mmol). DIEA (0.100 mL, 0.57 mmol) was also added. The mixture was stirred at 90 C for 1 h. After being cooled to room temperature, water and EtOAc were added. The organic phase was separated, washed with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo. The residue was dissolved in CH2Cl2 (1 mL) and TFA (1 mL). The solution was stirred at room temperature for 60 min. It was concentrated in vacuo. The residue was purified by HPLC to give the titled compound (23 mg). MS 411.3 (M+H). UV λ=247.8, 299.8 nm.

reactant | tert-butyl (1S,2R)-2-aminocyclohexylcarbamate | 0.300 mmol, 0.30 M, 1.00 mL | N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C11H22N2O2
reactant | 2-(1H-benzo[d][1,2,3]triazol-1-yloxy)-4-(3-fluoro-4-(1H-imidazol-1-yl)phenylamino)pyrimidine-5-carboxamide | 0.13 mmol, 57 mg | N1(N=NC2=C1C=CC=C2)OC2=NC=C(C(=N2)NC2=CC(=C(C=C2)N2C=NC=C2)F)C(=O)N | C20H14FN9O2
reactant | DIEA | 0.57 mmol, 0.100 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | water | O | H2O
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-((1R,2S)-2-aminocyclohexylamino)-4-(3-fluoro-4-(1H-imidazol-1-yl)phenylamino)pyrimidine-5-carboxamide | 23 mg | N[C@@H]1[C@@H](CCCC1)NC1=NC=C(C(=N1)NC1=CC(=C(C=C1)N1C=NC=C1)F)C(=O)N | C20H23FN8O
